.title Wurlitzer 200A Preamp - Transient & Harmonic Analysis
* Tests at multiple input levels and frequencies
* Uses Rldr_path = 1MEG (no tremolo, LDR dark baseline)

.MODEL Q2N5089 NPN(
+  IS=3.03E-14 BF=1434 NF=1.005 VAF=98.5 IKF=0.01358
+  ISE=2.88E-15 NE=1.262 BR=4.62 NR=1 VAR=22 IKR=0.1
+  ISC=1.065E-11 NC=1.41 RB=57 RE=0.518 RC=2.58
+  CJE=3.22E-12 VJE=0.65 MJE=0.33 TF=5.4E-10
+  CJC=1.35E-12 VJC=0.4 MJC=0.33 XCJC=0.63 TR=5E-08
+  XTB=1.38 EG=1.11 XTI=3 FC=0.5)

.MODEL D1N4148 D(IS=2.52E-09 RS=0.568 N=1.752 BV=100
+  IBV=100E-06 CJO=4E-12 VJ=0.7 M=0.45 TT=6E-09)

Vcc vcc 0 DC 14.5

* Input signal - parameterized amplitude and frequency
* Realistic pickup levels: 0.5mV (pp), 2mV (mf), 10mV (ff), 50mV (fff/clipping)
.param amp=0.002 freq=440

Vin in_sig 0 DC 0 SIN(0 {amp} {freq})
R1 in_sig node_A 22K
Cin node_A base1 0.022U

R2 vcc base1 2MEG
R3 base1 0 470K
C20 base1 0 220P
D1 0 base1 D1N4148

Q1 coll1 base1 emit1 Q2N5089
Rc1 vcc coll1 150K
Cc3 coll1 base1 100P
Re1 emit1 0 33K
Ce1 emit1 fb_junct 4.7U

* No tremolo baseline: LDR dark = very high resistance
Rldr_path fb_junct 0 1MEG

R10 out fb_junct 56K

Q2 coll2 coll1 emit2a Q2N5089
Rc2 vcc coll2 1.8K
Re2a emit2a emit2b 270
Ce2 emit2a emit2b 22U
Re2b emit2b 0 820
Cc4 coll2 coll1 100P

R9 coll2 out 6.8K
Rload out 0 100K

.control
* Let circuit settle first (100ms), then measure over clean cycles
set wr_vecnames

echo "============================================"
echo "=== Transient Analysis: Multiple Levels ==="
echo "============================================"

* --- Test 1: pp level (0.5mV) at 440 Hz ---
alterparam amp = 0.0005
alterparam freq = 440
reset
tran 1u 120m
let out_ac = v(out) - mean(v(out))
let settle_out = out_ac[100000:119999]
echo ""
echo "--- pp (0.5mV) at 440 Hz ---"
echo "Output DC offset:"
print mean(v(out))
echo "Output AC peak-peak:"
let pp = maximum(settle_out) - minimum(settle_out)
print pp
echo "Gain (Vout_pp / Vin_pp):"
let gain = pp / 0.001
print gain
wrdata /tmp/preamp_tran_pp440.txt v(out) v(base1) v(emit1) v(coll1)

* --- Test 2: mf level (2mV) at 440 Hz ---
alterparam amp = 0.002
alterparam freq = 440
reset
tran 1u 120m
let out_ac = v(out) - mean(v(out))
let settle_out = out_ac[100000:119999]
echo ""
echo "--- mf (2mV) at 440 Hz ---"
echo "Output DC offset:"
print mean(v(out))
echo "Output AC peak-peak:"
let pp = maximum(settle_out) - minimum(settle_out)
print pp
echo "Gain (Vout_pp / Vin_pp):"
let gain = pp / 0.004
print gain
wrdata /tmp/preamp_tran_mf440.txt v(out) v(base1) v(emit1) v(coll1)

* --- Test 3: ff level (10mV) at 440 Hz ---
alterparam amp = 0.010
alterparam freq = 440
reset
tran 1u 120m
let out_ac = v(out) - mean(v(out))
let settle_out = out_ac[100000:119999]
echo ""
echo "--- ff (10mV) at 440 Hz ---"
echo "Output DC offset:"
print mean(v(out))
echo "Output AC peak-peak:"
let pp = maximum(settle_out) - minimum(settle_out)
print pp
echo "Gain (Vout_pp / Vin_pp):"
let gain = pp / 0.020
print gain
wrdata /tmp/preamp_tran_ff440.txt v(out) v(base1) v(emit1) v(coll1)

* --- Test 4: fff level (50mV) at 440 Hz - should show clipping ---
alterparam amp = 0.050
alterparam freq = 440
reset
tran 1u 120m
let out_ac = v(out) - mean(v(out))
let settle_out = out_ac[100000:119999]
echo ""
echo "--- fff (50mV) at 440 Hz ---"
echo "Output DC offset:"
print mean(v(out))
echo "Output AC peak-peak:"
let pp = maximum(settle_out) - minimum(settle_out)
print pp
echo "Gain (Vout_pp / Vin_pp):"
let gain = pp / 0.100
print gain
wrdata /tmp/preamp_tran_fff440.txt v(out) v(base1) v(emit1) v(coll1)

* --- Test 5: mf level at different frequencies ---
echo ""
echo "=== Frequency Response at mf (2mV) ==="

foreach f 100 220 440 880 1760 3520
    alterparam amp = 0.002
    alterparam freq = $f
    reset
    tran 1u 120m
    let out_ac = v(out) - mean(v(out))
    let settle_out = out_ac[100000:119999]
    let pp = maximum(settle_out) - minimum(settle_out)
    let gain = pp / 0.004
    echo "freq=$f Hz: Vout_pp=$&pp gain=$&gain"
    destroy all
end

echo ""
echo "=== Transient Analysis Complete ==="

.endc
.end
